US08497264B2
Azidotrimethylsilane (1.102 ml, 8.32 mmol) was added to a suspension of ethyl 2-(3-bromo-5-hydroxy-7-iodo-5H-chromeno[2,3-b]pyridin-5-yl)acetate (2.33 g, 4.75 mmol) in toluene (31.7 ml). The reaction mixture was cooled to 0° C. and (diethyloxonio) trifluoroborate (0.753 ml, 5.94 mmol) was added slowly. The reaction mixture was allowed to warm to RT. After 30 min, the reaction mixture was quenched with MeOH (5 mL) followed by aqueous, saturated NaHCO3 solution (10 mL). The reaction mixture was extracted twice with EtOAc. The combined organic phases were washed with brine and dried over sodium sulfate. The solvent was removed under reduced pressure to afford ethyl 2-(5-azido-3-bromo-7-iodo-5H-chromeno[2,3-b]pyridin-5-yl)acetate as a yellow solid.

reactant | Azidotrimethylsilane | 8.32 mmol, 1.102 ml | N(=[N+]=[N-])[Si](C)(C)C | C3H9N3Si
reactant | ethyl 2-(3-bromo-5-hydroxy-7-iodo-5H-chromeno[2,3-b]pyridin-5-yl)acetate | 4.75 mmol, 2.33 g | BrC=1C=C2C(=NC1)OC1=CC=C(C=C1C2(O)CC(=O)OCC)I | C16H13BrINO4
solvent | toluene | 31.7 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 2-(5-azido-3-bromo-7-iodo-5H-chromeno[2,3-b]pyridin-5-yl)acetate | N(=[N+]=[N-])C1(C2=CC(=CC=C2OC2=NC=C(C=C21)Br)I)CC(=O)OCC | C16H12BrIN4O3
